US07871998B2
(2R)-2-[(N-{[4-((2R,3R)-1-(4-fluorophenyl)-3-{[2-(4-fluorophenyl)-2-hydroxyethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}glycyl)amino]-4-phenylbutanoic acid
N-{[4-((2R,3R)-1-(4-Fluorophenyl)-3-{[2-(4-fluorophenyl)-2-oxoethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}glycine (14.4 mg, 0.027 mmol) and N-methylmorpholine (15 μl, 0.14 mmol) were dissolved in DMF (3 ml). After 5 minutes, TBTU (10.3 mg, 0.032 mmol) was added and the mixture was stirred at 30° C. for 20 minutes. (2R)-2-Amino-4-phenylbutanoic acid (5.7 mg, 0.032 mmol) was added and the mixture was stirred at ambient temperature for 1.5 hors. The formation of the intermediate acid was confirmed. M/z: 702.0. MeOH (2.5 ml) and sodium borohydride were added and the mixture was stirred for 20 minutes. Ammonium acetate (31 mg) was added. The mixture was concentrated and purified with preparative HPLC on a C8 column. A gradient from 20% to 45% MeCN in 0.1M ammonium acetate buffer was used as eluent. After lyophilisation, the title compound was obtained as a white solid (9.4 mg, 50%). H-NMR (400 MHz, DMSO-d6): 1.74-1.87 (m, 1H), 1.89-1.99 (m, 1H), 2.49-2.53 (m, 2H), 2.82-2.98 (m, 2H), 3.77 (d, 2H), 3.94-4.01 (m, 1H), 4.27 (d, 0.5H), 4.31 (d, 0.5M), 4.53 (s, 2H), 4.68-4.77 (m, 1H), 5.02 (d, 0.5H), 5.05 (d, 0.5H), 6.99 (d, 2H), 7.05-7.16 (m, 7H), 7.19-7.26 (m, 4H), 7.30-7.38 (m, 4H), 7.78-7.88 (dd, 1H), 8.35 (t, 1H). M/z: 702.0 (M−H).

reactant | N-{[4-((2R,3R)-1-(4-Fluorophenyl)-3-{[2-(4-fluorophenyl)-2-oxoethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}glycine | 0.027 mmol, 14.4 mg | FC1=CC=C(C=C1)N1[C@@H]([C@H](C1=O)SCC(=O)C1=CC=C(C=C1)F)C1=CC=C(OCC(=O)NCC(=O)O)C=C1 | C27H22F2N2O6S
reactant | N-methylmorpholine | 0.14 mmol, 15 μl | CN1CCOCC1 | C5H11NO
reactant | TBTU | 0.032 mmol, 10.3 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | (2R)-2-Amino-4-phenylbutanoic acid | 0.032 mmol, 5.7 mg | N[C@@H](C(=O)O)CCC1=CC=CC=C1 | C10H13NO2
reactant | sodium borohydride | [BH4-].[Na+]
reactant | Ammonium acetate | 31 mg | C(C)(=O)[O-].[NH4+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | MeOH | 2.5 ml | CO | CH4O
product | (2R)-2-[(N-{[4-((2R,3R)-1-(4-fluorophenyl)-3-{[2-(4-fluorophenyl)-2-hydroxyethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}glycyl)amino]-4-phenylbutanoic acid | FC1=CC=C(C=C1)N1[C@@H]([C@H](C1=O)SCC(O)C1=CC=C(C=C1)F)C1=CC=C(OCC(=O)NCC(=O)N[C@@H](C(=O)O)CCC2=CC=CC=C2)C=C1 | C37H35F2N3O7S
